US04238611
A mixture of 2-bromo-4-fluorotoluene (37.4 g), N-bromosuccinimide (39 g), tetrachloromethane (120 ml) and benzoyl peroxide (0.25 g) is refluxed for 5 hours. After standing overnight, the separated succinimide is filtered off and the filtrate is taken down under diminished pressure, yielding 52 g (100%) of crude 2-bromo-4-fluorobenzyl bromide which can be used in the next step without purification. In order to characterize the pure compound, a sample can be distilled; b.p. 127° C./20 Torr.

reactant | 2-bromo-4-fluorotoluene | 37.4 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | N-bromosuccinimide | 39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 120 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-bromo-4-fluorobenzyl bromide | 52 g, 100% | BrC1=C(CBr)C=CC(=C1)F | C7H5Br2F
